US09163008B2
A mixture of 1-(4-fluorophenyl)piperazine (112 mg, 0.62 mmol), (S)-6-((1-amino-1-oxopropan-2-yl)amino)-2-chloropyrimidine-4-carboxamide (150 mg, 0.62 mmol) and Cs2CO3 (235 mg, 0.62 mmol) in DMF (3.0 mL) was stirred at 100° C. for 14 hrs. The reaction was worked up with EtOAc and purified by silica gel flash chromatography (DCM/methanol) to give (S)-6-((1-amino-1-oxopropan-2-yl)amino)-2-(4-(4-fluorophenyl)piperazin-1-yl)pyrimidine-4-carboxamide as a white solid (193 mg, 80%). 1H NMR (CD3OD): 6.90-7.1 (4H, m), 6.55 (1H, s), 4.3 (1H, m), 3.98 (4H, m), 3.10 (4H, m), 1.40 (3H, d, J=7.0 Hz). LC/MS: m/z=388 [M+H]+.

reactant | 1-(4-fluorophenyl)piperazine | 0.62 mmol, 112 mg | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | (S)-6-((1-amino-1-oxopropan-2-yl)amino)-2-chloropyrimidine-4-carboxamide | 0.62 mmol, 150 mg | NC([C@H](C)NC1=CC(=NC(=N1)Cl)C(=O)N)=O | C8H10ClN5O2
reactant | Cs2CO3 | 0.62 mmol, 235 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | (S)-6-((1-amino-1-oxopropan-2-yl)amino)-2-(4-(4-fluorophenyl)piperazin-1-yl)pyrimidine-4-carboxamide | 193 mg, 80% | NC([C@H](C)NC1=CC(=NC(=N1)N1CCN(CC1)C1=CC=C(C=C1)F)C(=O)N)=O | C18H22FN7O2
